### PR TITLE
feat(Algebra): add zpow_right_injective

### PR DESCRIPTION
**Pull request by lman310**
Add `zpow_right_injective`, stating that for a nontrivial element `a` of a
multiplicatively torsion free group, the map `n : ℤ ↦ a ^ n` is injective, 
as well as the corresponding additive theorem `zsmul_left_injective` using
`to_additive`

Use the new additive theorem in `CharZero.of_isAddTorsionFree`, replacing its
dependency on the general `smul_left_injective`. This allows
`CharZero.of_isAddTorsionFree` to move from
`Mathlib.Algebra.Module.Torsion.Free` to the earlier
`Mathlib.Algebra.Module.NatInt`, resolving the existing TODO

---

Codex was used to find the appropriate file `Mathlib.Algebra.Module.NatInt` for moving `CharZero.of_isAddTorsionFree`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Torsion.lean [hunk 1]
```diff
@@ -87,6 +87,15 @@ lemma IsMulTorsionFree.zpow_eq_one_iff : a ^ n = 1 ↔ a = 1 ∨ n = 0 := by
 @[to_additive IsAddTorsionFree.zsmul_eq_zero_iff_left]
 lemma IsMulTorsionFree.zpow_eq_one_iff_right (ha : a ≠ 1) : a ^ n = 1 ↔ n = 0 := by simp [*]
 
+@[to_additive zsmul_left_injective]
+lemma zpow_right_injective (ha : a ≠ 1) :
+    Injective fun n : ℤ ↦ a ^ n := by
+  intro m n h
+  dsimp at h
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Torsion.lean]:
```suggestion
```
also works.
If you don't like that use `dsimp only at h` (`beta_reduce at h` would be the better choice here imo, but not available in the file...)

File: Mathlib/Algebra/Module/NatInt.lean [hunk 2]
```diff
@@ -5,6 +5,7 @@ Authors: Nathaniel Thomas, Jeremy Avigad, Johannes Hölzl, Mario Carneiro
 -/
 module
 
+public import Mathlib.Algebra.Group.Torsion
```
Comment (felixpernegger) [inline Mathlib/Algebra/Module/NatInt.lean]:
```suggestion
```
this doesnt seem to be needed ?

File: Mathlib/Algebra/Group/Torsion.lean [hunk 3]
```diff
@@ -87,6 +87,15 @@ lemma IsMulTorsionFree.zpow_eq_one_iff : a ^ n = 1 ↔ a = 1 ∨ n = 0 := by
 @[to_additive IsAddTorsionFree.zsmul_eq_zero_iff_left]
 lemma IsMulTorsionFree.zpow_eq_one_iff_right (ha : a ≠ 1) : a ^ n = 1 ↔ n = 0 := by simp [*]
 
+@[to_additive zsmul_left_injective]
+lemma zpow_right_injective (ha : a ≠ 1) :
+    Injective fun n : ℤ ↦ a ^ n := by
```
Comment (felixpernegger) [inline Mathlib/Algebra/Group/Torsion.lean]:
```suggestion
    (a ^ · : ℤ → G).Injective := by
```
maybe? this is closer to the phrasing of the existing smul_left_injective

File: Mathlib/Algebra/Module/NatInt.lean (hunk 2 above)
Comment (felixpernegger) [inline Mathlib/Algebra/Module/NatInt.lean]:
```suggestion
```
doesnt seem to be needed?

**Comment by felixpernegger** [comment]
awaiting-author

**Comment by felixpernegger** [comment]
@lman310 can you try to merge master and see if that fixes the ci issue

**Comment by lman310** [comment]
-awaiting-author

**Review by felixpernegger — APPROVED** [review]

File: Mathlib/Algebra/Group/Torsion.lean [hunk 4]
```diff
@@ -87,6 +87,14 @@ lemma IsMulTorsionFree.zpow_eq_one_iff : a ^ n = 1 ↔ a = 1 ∨ n = 0 := by
 @[to_additive IsAddTorsionFree.zsmul_eq_zero_iff_left]
 lemma IsMulTorsionFree.zpow_eq_one_iff_right (ha : a ≠ 1) : a ^ n = 1 ↔ n = 0 := by simp [*]
 
+@[to_additive zsmul_left_injective]
+lemma zpow_right_injective (ha : a ≠ 1) :
+    (a ^ · : ℤ → G).Injective := by
+  intro m n h
+  apply Int.sub_eq_zero.mp
+  apply (IsMulTorsionFree.zpow_eq_one_iff_right ha).mp
+  simp [zpow_sub, h]
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Torsion.lean]: you can turn this into an iff:
```lean
@[to_additive zsmul_left_injective_iff]
lemma zpow_right_injective_iff : (a ^ · : ℤ → G).Injective ↔ a ≠ 1 := by
  refine ⟨fun h ha ↦ by simp [ha] at h, fun ha m n h ↦ ?_⟩
  rw [← sub_eq_zero, ← IsMulTorsionFree.zpow_eq_one_iff_right ha]
  simp [zpow_sub, h]

alias ⟨_, zpow_right_injective⟩ := zpow_right_injective_iff
alias ⟨_, zsmul_left_injective⟩ := zsmul_left_injective_iff
```

File: Mathlib/Algebra/Group/Torsion.lean [hunk 5]
```diff
@@ -87,6 +87,14 @@ lemma IsMulTorsionFree.zpow_eq_one_iff : a ^ n = 1 ↔ a = 1 ∨ n = 0 := by
 @[to_additive IsAddTorsionFree.zsmul_eq_zero_iff_left]
 lemma IsMulTorsionFree.zpow_eq_one_iff_right (ha : a ≠ 1) : a ^ n = 1 ↔ n = 0 := by simp [*]
 
+@[to_additive zsmul_left_injective]
+lemma zpow_right_injective (ha : a ≠ 1) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Torsion.lean]: you should also add the `_inj` version:
```lean
@[to_additive (attr := simp) zsmul_left_inj]
lemma zpow_right_inj (ha : a ≠ 1) {m n : ℤ} : a ^ m = a ^ n ↔ m = n :=
  (zpow_right_injective ha).eq_iff
```

Oh, wait, `zmul_left_inj` already exists. These should probably all be namespaced to `IsMulTorsionFree` then?

File: Mathlib/Algebra/Group/Torsion.lean (hunk 4 above)
Comment (lman310) [reply Mathlib/Algebra/Group/Torsion.lean]: Implemented as an iff, with the injectivity theorem derived as an alias.

File: Mathlib/Algebra/Group/Torsion.lean (hunk 5 above)
Comment (lman310) [reply Mathlib/Algebra/Group/Torsion.lean]: Added the `_inj` version and namespaced the new declarations under `IsMulTorsionFree` and `IsAddTorsionFree`.

**Comment by lman310** [comment]
-awaiting-author
